US07056932B2
Benzyl-1H-pyrazole-3-carbaldehyde (1.55 g, CAS 321405-31-6) and bromoform (0.94 ml) were dissolved under an argon atmosphere in dioxane/MeOH 1:1 (40 ml) and cooled to 0° C. A solution of KOH (2.31 g) in MeOH (20 ml) were added over a period of 20 min. The reaction was warmed to r.t. and stirred overnight. The reaction mixture was concentrated to one third of the volume, then taken up in water and washed with EtOAc. The aqueous layer was brought ot pH 1 with HCl, then extracted with EtOAc. The organic layer was washed with brine and concentrated to give crude (RS)-(1-benzyl-1H-pyrazol-3-yl)-methoxy-acetic acid (1.41 g). Yellow oil. MS 245.1 ([M−H]−)

reactant | Benzyl-1H-pyrazole-3-carbaldehyde | 1.55 g | C(C1=CC=CC=C1)N1N=C(C=C1)C=O | C11H10N2O
reactant | bromoform | 0.94 ml | C(Br)(Br)Br | CHBr3
reactant | KOH | 2.31 g | [OH-].[K+]
reactant | dioxane MeOH | 40 ml | O1CCOCC1.CO
solvent | MeOH | 20 ml | CO | CH4O
product | (RS)-(1-benzyl-1H-pyrazol-3-yl)-methoxy-acetic acid | 1.41 g | C(C1=CC=CC=C1)N1N=C(C=C1)C(C(=O)O)OC | C13H14N2O3
